US07205297B2
A mixture of 0.8 g of 4-chloro-5-(4-chlorophenylethynyl)-2-diisopropylaminomethyleneamino-pyrimidine, 35 mL acetonitrile and 0.71 g 1-acetyl piperazine was refluxed for one and one half hours. A green solution initially forms and the color changes to amber on continued heating. The solution was evaporated in vacuo and partitioned between dichloromethane and water. The organic phase was washed twice with water, dried over sodium sulfate, filtered and evaporated. The orange-brown brittle foam obtained was purified by column chromatography on silica gel, eluting initially with dichloromethane and then with 15% methanol/dichloromethane to give the intermediate derivative, 4-(-4-acetyl piperazino)-5-(4-chlorophenylethynyl)-2-diisopropylaminomethyleneaminopyrimidine. Heating 0.6 g of the intermediate with 40 mL methanolic ammonia in a bomb at 120° C. for 18 hours gave on evaporation in vacuo, a cocoa-colored residue which was purified by column chromatography on silica gel. The desired product 4-(4-acetylpiperazino)-2-amino-5-(4-chlorophenylethynyl)pyrimidine was obtained by elution with 5% methanol/dichloromethane, evaporation and trituration with methanol yielding 0.27 g, m.p. 165° C.

reactant | 4-chloro-5-(4-chlorophenylethynyl)-2-diisopropylaminomethyleneamino-pyrimidine | 0.8 g | ClC1=NC(=NC=C1C#CC1=CC=C(C=C1)Cl)N=CN(C(C)C)C(C)C | C19H20Cl2N4
reactant | 1-acetyl piperazine | 0.71 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 4-(-4-acetyl piperazino)-5-(4-chlorophenylethynyl)-2-diisopropylaminomethyleneaminopyrimidine | C(C)(=O)N1CCN(CC1)C1=NC(=NC=C1C#CC1=CC=C(C=C1)Cl)N=CN(C(C)C)C(C)C | C25H31ClN6O
